US07786114B2
The product is prepared by following the procedure described in example 34 stage (j) starting with 0.06 g of 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde and 0.05 g of 3-methylhistamine dihydrochloride instead of the cyclopropylamine used in example 34 stage (j). After purification by flash-pack chromatography (SiO2, dichloromethane/methanol 98/02 by volume as eluents), 0.070 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-[2-(3-methyl-3H-imidazol-4-yl)-ethyl]amine is obtained with the following characteristics:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde | 0.06 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=O)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H22N4O5S
reactant | 3-methylhistamine dihydrochloride | 0.05 g | Cl.Cl.CN1C=NC=C1CCN
product | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-[2-(3-methyl-3H-imidazol-4-yl)-ethyl]amine | 0.070 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNCCC=1N(C=NC1)C)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C31H33N7O4S
